US04236005
2-Methyl-4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile
A mixture of 0.01 mole of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone, 50 ml. of glacial acetic acid and 0.01 mole of 4-amino-2-methyl-5-imidazolecarbonitrile is refluxed for 5 hours. The solvent is removed under reduced pressure and the residue worked up as for Example 29 to give the product of the example.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | 0.01 mole | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 4-amino-2-methyl-5-imidazolecarbonitrile | 0.01 mole | NC=1N=C(NC1C#N)C | C5H6N4
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methyl-4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile | CC1=NC=2N(C(=C1)C=1C=C(C=CC1)C(F)(F)F)C=NC2C#N | C15H9F3N4
